US08957064B2
1-{1-[4-(2-methyl-6-phenyl-[1,2,4]-triazolo[1,5-a]pyrimidin-5-yl)benzyl]-piperidin-4-yl}-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine
200 mg (0.64 mmol) 4-(2-methyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)benzaldehyde and 194 mg (0.64 mmol) 1-piperidine-4-yl-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine were treated as described in example 2. Additional NaBH(OAc)3 has been added after 24 and 26 hours (two equivalents each). After five days stirring at room temperature the solvents have been evaporated and the residue was purified via chromatography. 48 mg of the desired compound were obtained.

reactant | 4-(2-methyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)benzaldehyde | 0.64 mmol, 200 mg | CC1=NN2C(N=C(C(=C2)C2=CC=CC=C2)C2=CC=C(C=O)C=C2)=N1 | C19H14N4O
reactant | 1-piperidine-4-yl-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine | 0.64 mmol, 194 mg | N1CCC(CC1)N1N=CC=2C1=NC=NC2N | C10H14N6
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 1-{1-[4-(2-methyl-6-phenyl-[1,2,4]-triazolo[1,5-a]pyrimidin-5-yl)benzyl]-piperidin-4-yl}-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine | 48 mg | CC1=NN2C(N=C(C(=C2)C2=CC=CC=C2)C2=CC=C(CN3CCC(CC3)N3N=CC=4C3=NC=NC4N)C=C2)=N1 | C29H28N10
